US06987114B1
1-(4-Trifluoromethoxybenzyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 4-trifluoromethoxybenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (212 mg, yield: 47.3%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | 4-trifluoromethoxybenzyl bromide | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
product | 1-(4-Trifluoromethoxybenzyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 212 mg, yield: 47.3% | FC(OC1=CC=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=C1)(F)F | C23H23F3N2O4
